Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Amoxicillin
 
Attending: ___
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
 ___ yo M with history significant for HIV on ART (last CD4 277, 
VL <20 ___, DM, remote history of HBV infxn in ___ 
who presents for abdominal pain, diarrhea, inability to tolerate 
po.  
 He states that about a week ago he gradually developed severe 
abdominal pain and associated loss of appetite. Its gradual 
onset progressed to persistent pain and inability to tolerate 
po. For about the past 5 days, whenever he tries to eat or drink 
something he will then have diarrhea. He says the abdominal pain 
is diffuse, constant, and not exacerbated or relieved by 
anything. It is non-radiating. He initially presented to ED 2 
days ago where CT was performed d/t concern for acute process. 
This only showed cholelithiasis but also cirrhotic morphology of 
liver.  
 He describes an episode of "chronic hepatitis B" in the ___ 
that was treated with bursts of prednisone. He was told at some 
point that he had cleared the infection.  
 He does not drink alcohol. He endorses some slight confusion 
recently. 
 In the ED, initial vitals were: 98.7 96 150/89 16 98% RA  
 Labs notable for:  
 Tbili 2.5 (0.6 direct)  
 Ast 47, Alt 33  
 AP 195  
 Alb 3.2  
 Plt 69  
 INR 1.2  
 Imaging notable for:  
 Abd US ___  
 1. Cirrhotic morphology of the liver. Patent main portal vein. 
Trace ascites.  
 2. Cholelithiasis without evidence of cholecystitis.  
 3. Splenomegaly.  
 Patient was given:  
 ___ 18:06 IVF 1000 mL NS 1000 mL ___  
 ___ 18:28 IV Morphine Sulfate 4 mg ___  
 ___ 18:50 IVF 1000 mL NS 1000 mL ___  
 Vitals prior to transfer: 97.7 84 110/56 16 97% RA  
 On the floor, he says he is comfortable. Endorses some weight 
loss, unsure how much. No fevers, n/v/c, + diarrhea, no dysuria, 
no penile discharge.  
 
Past Medical History:
 HIV  
 DM  
 History of HBV  
 B12 deficiency
 
Social History:
___
Family History:
 No family history of liver disease  
 
Physical Exam:
ADMISSION  PHYSICAL EXAM:  
 Vital Signs: 98.5 133-71 76 29 95RA  
 General: Alert, oriented, no acute distress  
 HEENT: no scleral icterus  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: somewhat nodular abdomen, especially laterally; very 
TTP diffusely, + guarding; unable to appreciate any HSM  
 GU: No foley  
 Skin: palmar erythema bilaterally; some spider angiomas on 
bilateral UE's; a few lesions on LUE and posterior neck that 
seem like erythematous papules  
 Neuro: no asterixis; AOx4; able to perform days of week 
backwards 

DISCHARGE PHYSICAL EXAM:  
Vitals: 98.1-98.3  ___  ___  94-97%RA
General: alert, oriented, no acute distress  
HEENT: mild scleral icterus, oropharynx dry  
Neck: supple, JVP not elevated, no LAD  
Lungs: clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNs2-12 intact, motor function grossly normal  
 
Pertinent Results:
ADMISSION LABS:

___ 04:40PM BLOOD WBC-4.6 RBC-3.80* Hgb-12.7* Hct-38.6* 
MCV-102* MCH-33.4* MCHC-32.9 RDW-14.2 RDWSD-53.6* Plt Ct-71*
___ 04:40PM BLOOD Neuts-70.5 Lymphs-15.8* Monos-12.0 
Eos-1.1 Baso-0.2 Im ___ AbsNeut-3.22 AbsLymp-0.72* 
AbsMono-0.55 AbsEos-0.05 AbsBaso-0.01
___ 04:40PM BLOOD ___ PTT-30.7 ___
___ 04:40PM BLOOD Glucose-109* UreaN-9 Creat-0.8 Na-140 
K-4.0 Cl-105 HCO3-25 AnGap-14
___ 04:40PM BLOOD ALT-41* AST-57* AlkPhos-217* TotBili-3.0*
___ 04:40PM BLOOD Albumin-3.5
___ 04:40PM BLOOD Lipase-39
___ 04:50PM BLOOD Lactate-2.6*

PERTINENT LABS:

___ 06:16PM BLOOD Lactate-2.0
___ 07:25AM BLOOD calTIBC-254* Ferritn-85 TRF-195*
___ 07:25AM BLOOD HBsAg-Negative HBsAb-Negative 
HBcAb-Positive* HAV Ab-Positive*

DISCHARGE LABS:

___ 07:25AM BLOOD WBC-3.4* RBC-3.44* Hgb-11.4* Hct-35.3* 
MCV-103* MCH-33.1* MCHC-32.3 RDW-14.0 RDWSD-53.3* Plt Ct-64*
___ 07:25AM BLOOD Glucose-146* UreaN-9 Creat-0.6 Na-137 
K-3.6 Cl-104 HCO3-23 AnGap-14
___ 07:25AM BLOOD ALT-28 AST-41* LD(LDH)-201 AlkPhos-173* 
TotBili-1.8*
___ 07:25AM BLOOD Albumin-2.8* Calcium-8.2* Phos-2.3* 
Mg-1.8 Iron-112

=
=
=
================================================================

STUDIES:

CT ABDOMEN/PELVIS ___
1. Cirrhotic morphology of the liver with features of portal 
hypertension 
including paraesophageal varices, splenomegaly, and mild 
ascites. 
2. No acute abdominopelvic pathology. 
3. Cholelithiasis without cholecystitis. 

RUQ ULTRASOUND ___
1. Cirrhotic morphology of the liver.  Patent main portal vein.  
Trace 
ascites. 
2. Cholelithiasis without evidence of cholecystitis. 
3. Splenomegaly. 

=
=
=
================================================================

 
Brief Hospital Course:
___ yo M with history of HIV on ART, DM, and remote history of 
HBV who presents for one-week history of abdominal pain and 
diarrhea and found to have cirrhotic features of liver on CT 
abdomen.  

# Abdominal pain: Workup including CT abdomen/pelvis was 
unremarkable. Pain resolved spontaneously on admission. Etiology 
was thought possibly secondary to cholelithiasis with passed 
gallstone, given cholelithiasis present on CT scan. Patient 
continud to have mild diarrhea on discharge but was tolerating a 
normal diet. Given he lives in ___ plan to establish 
PCP care and follow up there.

# Diarrhea: Mild after meals. Occurred intermittently this 
hospitalization. Plan to defer workup to outpatient setting; 
would consider stool studies and/or colonoscopy if indicated.

# Cirrhosis: Childs B, MELD-Na 13. New diagnosis based on CT and 
US findings. Hepatitis B serologies were sent here which showed 
positive HBcAb with negative HBsAb, HBsAg, and HBV viral load. 
This has unclear interpretation, but most likely resolved 
infection (most common), vs low-level chronic infection. He was 
also found to have positive HAV Ab and negative HCV antibody. 
Etiology of cirrhosis was thought most likely due to chronic 
HBV. Patient deferred further workup here as he plans to 
establish with outpatient hepatologist in ___.

# HIV: Last CD4 277, VL <20 ___. Continued home Truvada, 
azanavir, ritonavir.  
# DM: standing + ISS  
 
# CODE: DNR/DNI  
# CONTACT: ___ (partner) ___  

TRANSITIONAL ISSUES:
-Patient with new diagnosis of cirrhosis of unclear etiology but 
thought possibly related to chronic HBV infection. He will need 
to establish outpatient hepatology follow up.
-Consider elective cholecystectomy for known cholelithiasis and 
current abdominal pain thought likely biliary colic.
-Follow diarrhea and ensure resolution.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BuPROPion (Sustained Release) 200 mg PO DAILY 
2. Zolpidem Tartrate 10 mg PO QHS:PRN insomnia 
3. Nicotine Patch 21 mg TD DAILY 
4. MetFORMIN (Glucophage) 1000 mg PO DAILY 
5. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
6. SITagliptin 100 mg oral DAILY 
7. Cyanocobalamin 1000 mcg IM/SC QMONTH 
8. Aspirin 81 mg PO DAILY 
9. Pantoprazole 40 mg PO Q24H 
10. Piroxicam 10 mg PO DAILY 
11. Pravastatin 40 mg PO DAILY 
12. Atazanavir 300 mg PO DAILY 
13. Levemir 50 Units Breakfast
Levemir 50 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
14. ClonazePAM 0.5 mg PO BID:PRN anxiety 
15. RiTONAvir 100 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atazanavir 300 mg PO DAILY  
3.  BuPROPion (Sustained Release) 200 mg PO DAILY  
4.  ClonazePAM 0.5 mg PO BID:PRN anxiety  
5.  Cyanocobalamin 1000 mcg IM/SC QMONTH  
6.  Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY  
7.  Levemir 50 Units Breakfast
Levemir 50 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin 
8.  MetFORMIN (Glucophage) 1000 mg PO DAILY  
9.  Nicotine Patch 21 mg TD DAILY  
10.  Pantoprazole 40 mg PO Q24H  
11.  Piroxicam 10 mg PO DAILY  
12.  Pravastatin 40 mg PO DAILY  
13.  RiTONAvir 100 mg PO DAILY  
14.  SITagliptin 100 mg oral DAILY  
15.  Zolpidem Tartrate 10 mg PO QHS:PRN insomnia  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abdominal pain
Cholelithiasis
Cirrhosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___. You were admitted 
because of severe abdominal pain. A CT scan and ultrasound 
performed showed gallstones in your gallbladder, but none 
causing obstruction of bile ducts. It is possible that your pain 
is from a gallstone that was initially blocking the drainage, 
causing pain, but it has now passed.

Imaging also showed that you have cirrhosis. This may be related 
to the hepatitis B infection that you had in the past. We tested 
you for hepatitis B here and the result was indeterminate as to 
whether you cleared your prior infection or whether you still 
have an ongoing chronic infection. It is important that you 
follow up with hepatologists for further workup of the 
condition. 

Thank you for letting us participate in your care.

-Your ___ team
 
Followup Instructions:
___